US09120749B2
(4-(6-(3-aminopyrrolidin-1-yl)pyridin-3-ylamino)-6-(3-chloro-4-hydroxy-5-methoxyphenyl)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure D, tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyridin-2-yl)pyrrolidin-3-ylcarbamate (100 mg, 0.18 mmol) was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (77 mg, 0.27 mmol) to obtain the protected intermediate which was subjected to general procedure A-2 to afford the desired product (17 mg, 18% over 2 steps) as a orange-yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.38 (s, 1H), 8.31 (dd, J=8.8, 1.9 Hz, 1H), 8.25 (m, 2H), 8.05 (d, J=8.8 Hz, 1H), 7.89 (dd, J=9.3, 2.6 Hz, 1H), 7.13 (d, J=2.1 Hz, 1H), 7.06 (dd, J=9.3, 0.8 Hz, 1H), 6.90 (s, 1H), 4.15 (dt, J=11.2, 5.7 Hz, 1H), 4.04 (dd, J=11.9, 6.5 Hz, 1H), 3.94 (s, 3H), 3.86 (m, 1H), 3.76 (m, 2H), 2.83 (dt, J=12.1, 6.3 Hz, 1H), 2.60 (dt, J=21.4, 6.6 Hz, 1H), 2.31 (td, J=13.4, 5.7 Hz, 1H), 1.21 (m, 4H); ESI MS m/z 529 [C29H28ClN5O3+H]+; HPLC 99.6% (AUC), tR=9.97 min.

reactant | tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyridin-2-yl)pyrrolidin-3-ylcarbamate | 0.18 mmol, 100 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=CC(=NC1)N1CC(CC1)NC(OC(C)(C)C)=O | C27H30BrN5O3
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.27 mmol, 77 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
product | (4-(6-(3-aminopyrrolidin-1-yl)pyridin-3-ylamino)-6-(3-chloro-4-hydroxy-5-methoxyphenyl)quinolin-3-yl)(cyclopropyl)methanone | 17 mg, 18% | NC1CN(CC1)C1=CC=C(C=N1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)OC)O)Cl)C(=O)C1CC1 | C29H28ClN5O3
